US07700594B2
A solution of 8-amino-N-(2-aminophenyl)-3-cyclobutylimidazo[1,5-a]pyrazine-1-carboxamide (40.0 mg, 0.124 mmol) in acetic acid (1.2 mL) was microwaved at 120° C. for 10 min (300W). The resulting solution was purified mass directed preparative HPLC to afford 1-(1H-benzimidazol-2-yl)-3-cyclobutylimidazo[1,5-a]pyrazin-8-amine. 1 H NMR (400 MHz, DMSO-d6) δ ppm 1.92-2.05 (m, 1H) 2.07-2.21 (m, 1H) 2.53-2.59 (m, 4H) 3.91-4.06 (m, 1H) 7.08 (d, J=4.80 Hz, 1H) 7.16-7.26 (m, 2H) 7.38 (d, J=4.80 Hz, 1H) 7.44 (br. s., 1H) 7.55 (d, J=8.08 Hz, 1 H) 7.62 (d, J=6.82 Hz, 1H) 10.49 (br. s., 1H) 12.76 (s, 1H); MS (ES+): m/z 305.15 [MH+].

reactant | 8-amino-N-(2-aminophenyl)-3-cyclobutylimidazo[1,5-a]pyrazine-1-carboxamide | 0.124 mmol, 40.0 mg | NC=1C=2N(C=CN1)C(=NC2C(=O)NC2=C(C=CC=C2)N)C2CCC2 | C17H18N6O
solvent | acetic acid | 1.2 mL | C(C)(=O)O | C2H4O2
product | 1-(1H-benzimidazol-2-yl)-3-cyclobutylimidazo[1,5-a]pyrazin-8-amine | N1C(=NC2=C1C=CC=C2)C=2N=C(N1C2C(=NC=C1)N)C1CCC1 | C17H16N6
